US09233982B2
Ethyl-4-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-6-carboxylate (1.5 g, 6.7 mmol) was dissolved in EtOH (20 mL). 1M NaOH (aq.) (7 mL) was added portion-wise and the mixture was stirred at room temperature for 1 hr 45 min. The mixture was concentrated in vacuo and the residue was treated with 2M HCl (aq.). The product was extracted into ethyl acetate (×3) and this was back extracted with water and saturated brine. The organic extracts were combined, dried (MgSO4) and concentrated in vacuo to yield crude 4-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-6-carboxylic acid (1.27 g, 100%). This was dissolved in THF (15 mL) and BH3.DMS (4.8 mL, 2M in THF, 8.7 mmol) was added drop-wise at 0° C. The mixture was warmed to room temperature and stirred for 18 hr. Methanol was added and the reaction mixture was concentrated in vacuo. The crude residue was dissolved in ethyl acetate and washed with 1M NaOH (aq.) solution, water and brine. The organic extract was dried (MgSO4) and concentrated in vacuo to give the title compound (1.2 g, quant.).

reactant | Ethyl-4-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-6-carboxylate | 6.7 mmol, 1.5 g | C(C)OC(=O)C1CC(C2=C(SC=C2)C1)=O | C11H12O3S
reactant | NaOH | 1M, 7 mL | [OH-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-6-carboxylic acid | 1.27 g, 100% | O=C1CC(CC=2SC=CC21)C(=O)O | C9H8O3S
